US08729203B2
(b) Synthesis of 2-(2-phenylpropan-2-ylthio)ethyl acrylate (4) [via reverse transesterification]
Into a 3-neck 250 mL round-bottomed flask were weighed, in the following order: 2-(2-phenylpropan-2-ylthio)ethanol (30.0 g, 0.1528 moles), N,N′-diphenyl-1,4-phenylene diamine (0.318 g, 1.2224×10−3 moles) and ethyl acrylate (122.40 g, 1.2224 moles). The apparatus was then assembled in a reactive distillation arrangement before being purged with N2 (g). The Claisen head of the distillation apparatus was wrapped with Al-foil/glass wool. The reaction flask was then heated to 120° C., by use of a silicone heating oil bath, and once the ethyl acrylate (Bpt: 99° C.) started to distil over tetrapropoxytitanate (TPT) (1.04 mL, 0.999 g, 3.5144×10−3 moles) was added to the reaction mixture via a 2.50 mL Hamilton gastight syringe. The distillation rate immediately increased significantly and the distillation vapour temperature decreased from 98° C. to ca. 80° C.

reactant | 2-(2-phenylpropan-2-ylthio)ethanol | 0.1528 moles, 30.0 g | C1(=CC=CC=C1)C(C)(C)SCCO | C11H16OS
reactant | N,N′-diphenyl-1,4-phenylene diamine | 1.2224×10−3 moles, 0.318 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)NC1=CC=CC=C1 | C18H16N2
reactant | ethyl acrylate | 1.2224 moles, 122.40 g | C(C=C)(=O)OCC | C5H8O2
product | 2-(2-phenylpropan-2-ylthio)ethyl acrylate | C(C=C)(=O)OCCSC(C)(C)C1=CC=CC=C1 | C14H18O2S
